US07259183B2
317 mg (1 mmol) of trifluoro-methanesulfonic acid 4-tert-butyl-2-chloro-phenyl ester and 281 mg (2 mmol) of 2-(4-fluoro-phenyl) ethyl amine were dissolved in 5 ml DMF. Under argon at rt 6.7 mg (0.03 mmol) of palladium acetate and 12.4 mg (0.03 mmol) of dppp were added. The reaction mixture was evacuated and charged with carbon monoxide gas three times. The reaction mixture was heated to 70° C. under a carbon monoxide atmosphere for 1 h. Water was added and the reaction mixture was extracted twice with EtOAc. The combined organic layers were washed with 1N aqueous HCl solution, once with saturated aqueous NaCl solution, dried over sodium sulfate, filtered and the solvent was evaporated. The residue was purified by column chromatography (45 g silica gel; heptane/EtOAc 7:3) to yield 198 mg (59%) of 4-tert-butyl-2-chloro-N-[2-(4-fluoro-phenyl)-ethyl]-benzamide as a white solid. 1H NMR (DMSO-d6, 300 MHz): δ 8.41 (t, 1H), 7.42 (s, 1H), 7.39 (d, 1H), 7.30 (d, 1H), 7.28 (t, 2H), 7.12 (t, 2H), 3.43 (q, 2H), 2.81 (t, 2H), 1.27 (s, 1H).

reactant | trifluoro-methanesulfonic acid 4-tert-butyl-2-chloro-phenyl ester | 1 mmol, 317 mg | C(C)(C)(C)C1=CC(=C(C=C1)OS(=O)(=O)C(F)(F)F)Cl | C11H12ClF3O3S
reactant | 2-(4-fluoro-phenyl) ethyl amine | 2 mmol, 281 mg | FC1=CC=C(C=C1)CCN | C8H10FN
reactant | DMF | 5 ml | CN(C)C=O | C3H7NO
catalyst | palladium acetate | 0.03 mmol, 6.7 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | dppp | 0.03 mmol, 12.4 mg | C=1C=CC(=CC1)P(CCCP(C=2C=CC=CC2)C=3C=CC=CC3)C=4C=CC=CC4 | C27H26P2
product | 4-tert-butyl-2-chloro-N-[2-(4-fluoro-phenyl)-ethyl]-benzamide | 198 mg, 59% | C(C)(C)(C)C1=CC(=C(C(=O)NCCC2=CC=C(C=C2)F)C=C1)Cl | C19H21ClFNO
